US07465726B2
5-Amino-1-phenyl-1H-pyridin-2-one, hydrochloride
5-(Benzhydrylideneamino)-1-phenyl-1H-pyridin-2-one (72.0 mg) was dissolved in tetrahydrofuran (3 ml), and aqueous HCl (2 M, 1.0 ml) was added while stirring at rt. The yellow color was faded. After 30 min, the reaction mixture was partitioned between aqueous HCl (1 M, 8 ml) and 40% EtOAc/hexane (15 ml). The aqueous layer was extracted with 40% EtOAc/hexane (15 ml), and the aqueous phase was then concentrated in vacuo to the title compound as beige foam. 1H NMR (DMSO-d6, 400 MHz): δ=6.62 (d, 1H, J=10.0 Hz), 7.42-7.59 (m, 6H), 7.90 (d, 1H, J=2.8 Hz), 10.34 (brs, 2H). MS(ES+): m/z 187.22 (100) [MH+]. HPLC: tR=0.52 min (ZQ2000, polar—5 min).

reactant | 5-(Benzhydrylideneamino)-1-phenyl-1H-pyridin-2-one | 72.0 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC=1C=CC(N(C1)C1=CC=CC=C1)=O | C24H18N2O
reactant | HCl | 2 M, 1.0 ml | Cl | ClH
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 5-Amino-1-phenyl-1H-pyridin-2-one, hydrochloride | Cl.NC=1C=CC(N(C1)C1=CC=CC=C1)=O | InChI=1S/C11H10N2O.ClH/c12-9-6-7-11(14)13(8-9)10-4-2-1-3-5-10;/h1-8H,12H2;1H
